US06787652B1
2-[3,5-Dichloro-4-(3-formyl-4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione
A solution of 2-[3,5-dichloro-4-(4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione (1 g) and hexamethylenetetraamine (0.6 g) in trifluoroacetic acid (8 mL) was stirred at 70° C. for 18 h. The trifluoroacetic acid was removed in vacuo, water added and the resulting mixture was stirred for 30 min. The residue was extracted with ethyl acetate, the organic phase washed with water, brine, dried (Na2SO4), concentrated in vacuo and flash chromatographed on silica gel (35% acetone/hexanes) to afford the title compound of Step A as an off-white solid, 1.0 g (m.p. 184-187° C.).

reactant | 2-[3,5-dichloro-4-(4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione | 1 g | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)OC)Cl)N1N=CC(NC1=O)=O | C16H11Cl2N3O4
reactant | hexamethylenetetraamine | 0.6 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 8 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[3,5-Dichloro-4-(3-formyl-4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C=O)Cl)N1N=CC(NC1=O)=O | C17H11Cl2N3O5
